US07816542B2
A solution of 2-hydroxy-4-iodo-benzoic acid methyl ester (8.01 g, 0.0288 mol) in THF (184 ml) and H2O (46 ml) is treated with vinyl-boronic acid di-butyl ester (9.53 ml, 0.0432 mol, 1.5 eq.), NaCO3 (21.37 g, 0.201 mol, 7 eq.), and dichloro-bis(triphenyl-phosphine)palladium (1.01 g, 1.44 mmol, 5 mol %). The solution is purged with N2 (g) for 5 minutes and then heated to reflux for 2 hour. The reaction is concentrated in vacuo, diluted with EtOAc, and sequentially washed with H2O and saturated aqueous NaCl. The organic phase is dried over MgSO4, filtered, and concentrated. The crude product is purified with silica gel column chromatography (5% ethyl acetate in hexanes) to afford 2-hydroxy-4-vinyl-benzoic acid methyl ester: ESMS m/z 179.1 (M+H+).

reactant | 2-hydroxy-4-iodo-benzoic acid methyl ester | 0.0288 mol, 8.01 g | COC(C1=C(C=C(C=C1)I)O)=O | C8H7IO3
reactant | vinyl-boronic acid di-butyl ester | 0.0432 mol, 9.53 ml, 1.5 eq. | C(CCC)OB(OCCCC)C=C | C10H21BO2
solvent | THF | 184 ml | C1CCOC1 | C4H8O
solvent | H2O | 46 ml | O | H2O
product | 2-hydroxy-4-vinyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C=C)O)=O | C10H10O3
